US08138340B2
(rac.)-4-[1-(tert-Butyldimethylsilanyloxy)ethyl]-2,6-dichlorophenol
A sol. of (rac.)-2-(tert-butyldimethylsilanyloxy)-5-[1-(tert-butyldimethylsilanyloxy)ethyl]-1,3-dichlorobenzene (188 mg, 0.432 mmol) and CS2CO3 (76.2 mg, 0.126 mmol) in a mixture of DMF (0.50 mL) and water (50 μL) was stirred at rt overnight. Et2O (75 mL) was added. The sol. was washed with brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification by FC(CH2Cl2) yielded the title compound (122 mg, 88%). LC-MS: tR=1.15 min.

reactant | (rac.)-2-(tert-butyldimethylsilanyloxy)-5-[1-(tert-butyldimethylsilanyloxy)ethyl]-1,3-dichlorobenzene | 0.432 mmol, 188 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1Cl)C(C)O[Si](C)(C)C(C)(C)C)Cl | C20H36Cl2O2Si2
reactant | Et2O | 75 mL | CCOCC | C4H10O
solvent | DMF | 0.50 mL | CN(C)C=O | C3H7NO
solvent | water | 50 μL | O | H2O
product | (rac.)-4-[1-(tert-Butyldimethylsilanyloxy)ethyl]-2,6-dichlorophenol | 122 mg, 88% | [Si](C)(C)(C(C)(C)C)OC(C)C1=CC(=C(C(=C1)Cl)O)Cl | C14H22Cl2O2Si
